US07244730B2
(Step 3) 3-Fluoro-4,5-dimethoxyphthalonitrile
After dissolving the 1,2-dibromo-3-fluoro-4,5-dimethoxybenzene (40 g, 0.127 mol) in dimethylformamide (300 ml), CuCN (34.1 g, 0.381 mol) was added at room temperature while stirring and the mixture was stirred at 150° C. for 4 hours. After cooling on ice, a solution of sodium cyanide (44 g) in water (600 ml) was added and the mixture was stirred at room temperature for 10 minutes, after which extraction was performed with ethyl acetate (500 ml×3) and then after washing the combined organic layers with brine (500 ml) and drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (white crystals 12.0 g, 46%).

reactant | 1,2-dibromo-3-fluoro-4,5-dimethoxybenzene | 0.127 mol, 40 g | BrC1=C(C(=C(C(=C1)OC)OC)F)Br | C8H7Br2FO2
reactant | CuCN | 0.381 mol, 34.1 g | C(#N)[Cu]
reactant | sodium cyanide | 44 g | [C-]#N.[Na+]
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | water | 600 ml | O | H2O
product | 3-Fluoro-4,5-dimethoxyphthalonitrile | 12.0 g, 46% | FC1=C(C(C#N)=CC(=C1OC)OC)C#N | C10H7FN2O2
